US04900750
1,4-Dihydro-2,6-di[(3-pyridyloxy)-methyl]-4-(3-nitrophenyl)pyridine-3,5-dicarboxylic acid diethyl ester
Ethyl 3-nitrobenzylideneacetoacetate (6.47 g. 0.026 mol), ethyl 3-oxo-4-(3-pyridyloxy)butanoate (5.8 g, 0.026 mol) and 0.88 ammonia (2.5 ml) in ethanol were refluxed for 7 hours. The solvent was removed under reduced pressure and the residue partitioned between 2N hydrochloric acid and diethyl ether. The aqueous acid was extracted with chloroform and this was washed with dilute ammonia solution, dried (MgSO4) and evaporated. The residue was purified by chromatography on silica with first chloroform then ethyl acetate as eluent to obtain the title compound. This was dissolved in ethanol and acidified with ethanolic HCl to give the dihydrochloride salt of the title compound (0.95 g) m.p. 206-208° C.

reactant | Ethyl 3-nitrobenzylideneacetoacetate | 0.026 mol, 6.47 g | [N+](=O)([O-])C=1C=C(C=CC(CC(=O)OCC)=O)C=CC1 | C13H13NO5
reactant | ethyl 3-oxo-4-(3-pyridyloxy)butanoate | 0.026 mol, 5.8 g | O=C(CC(=O)OCC)COC=1C=NC=CC1 | C11H13NO4
reactant | ammonia | 2.5 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 1,4-Dihydro-2,6-di[(3-pyridyloxy)-methyl]-4-(3-nitrophenyl)pyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)COC=1C=NC=CC1)COC=1C=NC=CC1 | C29H28N4O8
